US06288061B1
Ethyl 3-(4-chlorophenyl)-2-hydroxyimino-3-oxopropionate (10.0 g) and 1-aminomethylnaphthalene (7.0 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-chlorophenyl)-2-(1-naphthyl)imidazole-4-carboxylate (6.6 g). 6.0 g therefrom was dissolved in ethyl alcohol (120 ml), and 1 M sodium hydroxide solution (45 ml) was added. The reaction mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 5-(4-chlorophenyl)-2-(1-naphthyl)-imidazole-4-carboxyic acid (4.1 g), melting point 210° C. (decomposition).

reactant | Ethyl 3-(4-chlorophenyl)-2-hydroxyimino-3-oxopropionate | 10.0 g | ClC1=CC=C(C=C1)C(C(C(=O)OCC)=NO)=O | C11H10ClNO4
reactant | 1-aminomethylnaphthalene | 7.0 g | NCC1=CC=CC2=CC=CC=C12 | C11H11N
product | ethyl 5-(4-chlorophenyl)-2-(1-naphthyl)imidazole-4-carboxylate | 6.6 g | ClC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=CC2=CC=CC=C12)C(=O)OCC | C22H17ClN2O2
